US04521629
Preparation of 1,5-bis(α,α,α-trifluoro-p-tolyl)-1,4-pentadien-3-one on a large scale
A mixture of 4-trifluoromethylbenzaldehyde (8.4 kg), heptane (12.1 L), water (5.23 L), 50% sodium hydroxide (0.384 kg) and methyl bis(hydroxyethyl)oleylammonium chloride (0.213 kg) is stirred under a nitrogen atmosphere and heated to 40° C. to 45° C. Acetone (1.44 kg) is added to the above mixture over 2.3 hours. The resulting slurry is stirred and heated at 42° C. for two hours and then 85% phosphoric acid (1.36 kg) is added followed by isopropyl alcohol (8.97 L). The resultant mixture is heated at reflux (73° C.) for 1.5 hours and then cooled to 14° C. The reaction mixture is filtered, the isolated solids washed with heptane (5.29 L) and water (7.12 L). Drying affords 7.2 kg of the title compound, mp 154° C. to 155.5° C.

reactant | 4-trifluoromethylbenzaldehyde | 8.4 kg | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | heptane | 12.1 L | CCCCCCC | C7H16
reactant | sodium hydroxide | 0.384 kg | [OH-].[Na+]
reactant | phosphoric acid | 1.36 kg | P(O)(O)(O)=O | H3O4P
catalyst | methyl bis(hydroxyethyl)oleylammonium chloride | 0.213 kg | [Cl-].C[NH2+]CCCCCCCC\C=C/CCCCCCCC(CCO)CCO
solvent | isopropyl alcohol | 8.97 L | C(C)(C)O | C3H8O
solvent | Acetone | 1.44 kg | CC(=O)C | C3H6O
solvent | water | 5.23 L | O | H2O
product | 1,5-bis(α,α,α-trifluoro-p-tolyl)-1,4-pentadien-3-one | 7.2 kg | FC(C1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)C(F)(F)F)=O)(F)F | C19H12F6O
